US04617316
A stirred mixture of 15.0 g (10.1 mole) of 2-ethoxy-4-nitroaniline and 13.4 g (0.09 mole) of phthalic anhydride in 100 ml of glacial acetic acid was heated at reflux for approximately 18 hours. The reaction mixture was cooled then poured into 700 ml of water to produce a solid which was collected by filtration. The solid was dissolved in methylene chloride, and the resultant solution washed first with an aqueous 10% potassium carbonate solution followed by an aqueous sodium chloride solution. The washed organic solution was dried over anhydrous sodium sulfate, filtered, and the filtrate evaporated under reduced pressure to yield 23.5 g of 2-(2-ethoxy-4-nitrophenyl)-1H-isoindol-1,3-(2H)-dione as a solid (mp 204°-206° C.).

reactant | 2-ethoxy-4-nitroaniline | 10.1 mole, 15.0 g | C(C)OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C8H10N2O3
reactant | phthalic anhydride | 0.09 mole, 13.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | 700 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-(2-ethoxy-4-nitrophenyl)-1H-isoindol-1,3-(2H)-dione | 23.5 g | C(C)OC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C2=CC=CC=C2C1=O)=O | C16H12N2O5
